US05162312
a) 3-methoxy-17-trimethylsilyloxy-estra-1,3,5(10),16-tetraene
10 g of 3-methoxy-estra-1,3,5(10)-trien-17-one (35.2 mmol) is mixed with exclusion of moisture under inert gas with 30 ml of methylene chloride distilled on P2O5 and 10.5 g of trifluoromethanesulfonic acid trimethylsilyl ester (47.2 mmol, D=1.15). Then, about 7 ml of triethylamine (KOH dried, M=101.2; D=0.726) is added in portions with stirring and gentle cooling, and the solution reacts clearly in an alkaline way. Then, it is allowed to stand for 12 hours at room temperature, and after the reaction has been completed, the solvent is removed in a vacuum. The remaining viscous residue is extracted three times with about 20 ml of absolute ether under inert gas. The ether solution, in which the steroid is present, is used directly in the next step.

reactant | 3-methoxy-estra-1,3,5(10)-trien-17-one | 35.2 mmol, 10 g | COC1=CC=2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C2C=C1)=O | C19H24O2
reactant | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
reactant | trifluoromethanesulfonic acid trimethylsilyl ester | 47.2 mmol, 10.5 g | C[Si](C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
solvent | triethylamine | about 7 ml | C(C)N(CC)CC | C6H15N
product | 3-methoxy-17-trimethylsilyloxy-estra-1,3,5(10),16-tetraene | COC1=CC=2CC[C@H]3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3C2C=C1)O[Si](C)(C)C | C22H32O2Si
